US07648987B2
a) 8-Chloro-1-iodo-3-methylsulfanyl-imidazo[1,5-a]pyrazine
To a solution of 8-chloro-3-methylsulfanyl-imidazo[1,5-a]pyrazine (1.75 g, 0.00876 mol) in DMF (15 mL) was added N-iodosuccinimide (3.94 g, 0.0175 mol), the resulting mixture was stirred at 55° C. for 6 h. The mixture was diluted with EtOAc (200 mL), washed with sat. aq. NaHCO3 (40 mL), water (2×40 mL), brine (40 mL), and dried over anhydrous sodium sulfate. The crude material was purified by silica gel chromatography to give the title compound as a yellow solid; 1H NMR (CDCl3, 400 MHz) δ 2.72 (s, 3H), 7.36 (d, J=4.8 Hz, 1H), 7.76 (d, J=4.8 Hz, 1H).

reactant | 8-chloro-3-methylsulfanyl-imidazo[1,5-a]pyrazine | 0.00876 mol, 1.75 g | ClC=1C=2N(C=CN1)C(=NC2)SC | C7H6ClN3S
reactant | N-iodosuccinimide | 0.0175 mol, 3.94 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 8-Chloro-1-iodo-3-methylsulfanyl-imidazo[1,5-a]pyrazine | ClC=1C=2N(C=CN1)C(=NC2I)SC | C7H5ClIN3S
